US08183351B2
Va-9 Methyl 2-(2-methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylate
51 mg of 4-toluenesulphonic acid are added to a solution of 400 mg of methyl 3-hydroxyl-2-(hydroxymethyl)-2-methylpropanoate and 362 mg of 1,1,3-trimethoxypropane in toluene, and the mixture is stirred at 80° C. for 4 hours. After addition of saturated sodium bicarbonate solution, the organic phase is separated off and dried over sodium sulphate, and the solvent is removed under reduced pressure. The residue is filtered through silica gel (mobile phase cyclohexane/ethyl acetate 4:1). This gives 478 mg of methyl 2-(2-methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylate as a mixture of two isomeric forms in a purity of about 38% (LCMS).

reactant | 4-toluenesulphonic acid | 51 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl 3-hydroxyl-2-(hydroxymethyl)-2-methylpropanoate | 400 mg | OCC(C(=O)OC)(C)CO | C6H12O4
reactant | 1,1,3-trimethoxypropane | 362 mg | COC(CCOC)OC | C6H14O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(2-methoxyethyl)-5-methyl-1,3-dioxane-5-carboxylate | COCCC1OCC(CO1)(C(=O)OC)C | C10H18O5
